US05053432
A mixture of 2-chloro-1,4-naphthoquinone (1.16 g), 4-methoxycyclohexane-1-carboxylic acid (1.3 g) and silver nitrate (0.3 g) were stirred at 65° C. in a mixture of acetonitrile (2.5 ml), sulpholane (7.5 ml) and water (17.5 ml) while a solution of ammonium persulphate (2.3 g) in water (5 ml) was added dropwise during 15 minutes. The reaction mixture was stirred for a further 15 minutes at 65° C., cooled in ice and extracted with ether. The ether extracts were washed with sodium bicarbonate solution, dried and evaporated. The crude product was recrystallised from acetonitrile to yield 2-chloro-3-(4-methoxycyclohexyl)-1,4-naphthoquinone, m.p. 110°-113° C.; the product so obtained (0.9 g) was dissolved in boiling methanol (25 ml) and a solution of potassium hydroxide (0.9 g) in water (9 ml) added dropwise during 10 minutes. The reaction mixture was then refluxed for a further 30 minutes, concentrated hydrochloric acid (5 ml) added dropwise and the mixture cooled in ice. Addition of an equal volume of water precipitated an oil which slowly turned to a semi-solid. Recrystallisation from acetonitrile yielded 2-hydroxy-3-(4-methoxycyclohexyl)-1,4-naphthoquinone, m.p. 152°-155°, shown by n.m.r. to be the pure trans isomer.

reactant | 2-chloro-1,4-naphthoquinone | 1.16 g | ClC=1C(C2=CC=CC=C2C(C1)=O)=O | C10H5ClO2
reactant | 4-methoxycyclohexane-1-carboxylic acid | 1.3 g | COC1CCC(CC1)C(=O)O | C8H14O3
reactant | sulpholane | 7.5 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | ammonium persulphate | 2.3 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | acetonitrile | 2.5 ml | C(C)#N | C2H3N
solvent | water | 5 ml | O | H2O
catalyst | silver nitrate | 0.3 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 17.5 ml | O | H2O
product | 2-chloro-3-(4-methoxycyclohexyl)-1,4-naphthoquinone | ClC=1C(C2=CC=CC=C2C(C1C1CCC(CC1)OC)=O)=O | C17H17ClO3
